US09260450B2
Step ii: 1-(thieno[3,2-c]pyridin-2-yl)ethanone
A solution of thieno[3,2-c]pyridine (5.0 g) in 75 mL THF (tetrahydrofuran) was cooled to −45° C. in a CH3CN/dry ice bath. n-Butyllithium (1.6M in hexanes) (35.0 ml) was added dropwise maintaining the internal temperature at or below −40° C. The addition took about 45 minutes. The reaction was stirred for 1 hour at −45° C. N-methyl-N-methoxyacetamide in 5 mL THF was added and as a result the reaction warmed to −30° C. The reaction was stirred at −45° C. for 1.5 hours. The reaction was quenched with saturated NH4Cl. The aqueous layer had a pH of about 8. The aqueous layer was extracted three times into EtOAc. The combined organic extracts were washed with brine and dried over MgSO4. The material was filtered, concentrated on a rotary evaporator and subjected to column chromatography (Biotage Horizon system, 120 g Analogix column, equilibrate with hexanes, elute with 50% EtOAc/hexanes). The most pure fractions were concentrated on a rotary evaporator and then triturated with Et2O to remove some color and collect a pale orange solid by filtration (2.667 g).

reactant | thieno[3,2-c]pyridine | 5.0 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | n-Butyllithium | 1.6M, 35.0 ml | C(CCC)[Li]
reactant | N-methyl-N-methoxyacetamide | CN(C(C)=O)OC | C4H9NO2
solvent | THF | 75 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | O1CCCC1 | C4H8O
product | 1-(thieno[3,2-c]pyridin-2-yl)ethanone | S1C(=CC=2C=NC=CC21)C(C)=O | C9H7NOS
